US04959495
Diphenylmethyl 7β-[4-chloro-2-(Z)-methoxyimino-3-oxobutyramido]-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate
A solution of 4-chloro-2-(Z)-methoxyimino-3-oxobutanoic acid (4.05 g, 22.6 mmol.), diphenylmethyl 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate (11.2 g, 22.6 mmol.) and 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (5.58 g, 22.6 mmol.) in 200 ml of methylene chloride was stirred at room temperature for 3 hours. The solution was evaporated to dryness at reduced pressure and the residue was taken up in 150 ml of ethyl acetate which was extracted with 50 ml aliquots of 1N hydrochloric acid, water, saturated sodium bicarbonate, water and brine. The ethyl acetate was dried over magnesium sulfate, evaporated to dryness and the resulting product was purified by flash chromatography on silica gel 60 using ethyl acetate: hexane (1:2) as the eluent to afford 3.34 g of the desired compound:NMR (CDCl3) δ 3.52 (pair of d, 2H, J=18 Hz, endocyclic --CH2S--), 4.05 (pair of d, 2H, J=13 Hz, exocyclic --CH2S--), 4.15 (S, 3H, --OCH3)j, 4.59 (S, 2H, ClCH2 --), 5.04 (d, 1H, J=4.7 Hz, 6H of 7ACA), 5.88 (dd, 1H, J=4.7 and 8.6 Hz, 7H of 7ACA), 6.89 (S, 1H, --CH--), 7.33 (m, 10H, aromatic H), 8.37 (S, 1H, thiadiazole H).

reactant | 4-chloro-2-(Z)-methoxyimino-3-oxobutanoic acid | 22.6 mmol, 4.05 g | ClCC(/C(/C(=O)O)=N/OC)=O | C5H6ClNO4
reactant | diphenylmethyl 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate | 22.6 mmol, 11.2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H20N4O3S3
reactant | 1-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 22.6 mmol, 5.58 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7β-[4-chloro-2-(Z)-methoxyimino-3-oxobutyramido]-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate | 3.34 g | ClCC(/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC)=O | C28H24ClN5O6S3
